US04988689
A mixture of 6 parts of 3-[(5-methyl-2-furanyl)methyl]-N-(3-pyrrolidinyl)-3H-imidazo[4,5-b]pyridin-2-amine monohydrochloride, 2 parts of poly(oxymethylene), 1 part of a solution of thiophene in methanol 4%, 160 parts of methanol and 6 parts of potassium acetate was hydrogenated at normal pressure and at room temperature with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was taken up in water and a small amount of concentrated ammonium hydroxide was added. The product was extracted twice with trichloromethane. The combined extracts were washed with water, dried, filtered and evaporated. The oily residue was converted into the (E)-2-butenedioate salt in 320 parts of 2-propanone. The salt was filtered off, washed with 2-propanone and crystallized from 2-propanol. The product was filtered off and dried in vacuo at 60° C., yielding 1.5 parts (15.3%) of 3-[ (5-methyl-2-furanyl)methyl]-N-(1-methyl-3-pyrrolidinyl)-3H-imidazo[4,5-b]-pyridin-2-amine (E)-2-butenedioate(1:2); mp. 168.6° C. (compound 193).

reactant | 3-[(5-methyl-2-furanyl)methyl]-N-(3-pyrrolidinyl)-3H-imidazo[4,5-b]pyridin-2-amine monohydrochloride | Cl.CC1=CC=C(O1)CN1C(=NC=2C1=NC=CC2)NC2CNCC2
reactant | poly(oxymethylene) | O(C[*:2])[*:1]
reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | hydrogen | [H][H] | H2
reactant | methanol | CO | CH4O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 3-[ (5-methyl-2-furanyl)methyl]-N-(1-methyl-3-pyrrolidinyl)-3H-imidazo[4,5-b]-pyridin-2-amine (E)-2-butenedioate | 15.3% | C(\C=C\C(=O)O)(=O)O.CC1=CC=C(O1)CN1C(=NC=2C1=NC=CC2)NC2CN(CC2)C | InChI=1S/C17H21N5O.C4H4O4/c1-12-5-6-14(23-12)11-22-16-15(4-3-8-18-16)20-17(22)19-13-7-9-21(2)10-13;5-3(6)1-2-4(7)8/h3-6,8,13H,7,9-11H2,1-2H3,(H,19,20);1-2H,(H,5,6)(H,7,8)/b;2-1+
